US06815438B2
3-(5-Ethoxy-3-pyridyl)-3,7-diazabicyclo[3.3.0]octane (Compound B1):
Obtainable by stirring a mixture of 3-chloro-5-ethoxypyridine (1 eq.), 3.7-Diazabicyclo[3.3.0]octane (1 eq.), potassium-tert-butoxide (2 eq.) and 1.2-dimethoxyethane as solvent. Workup-procedure A/B.

reactant | 3-chloro-5-ethoxypyridine | 1 eq. | ClC=1C=NC=C(C1)OCC | C7H8ClNO
reactant | 3.7-Diazabicyclo[3.3.0]octane | 1 eq. | C12CNCC2CNC1 | C6H12N2
reactant | potassium-tert-butoxide | 2 eq. | CC(C)([O-])C.[K+]
solvent | 1.2-dimethoxyethane | COCCOC | C4H10O2
product | 3-(5-Ethoxy-3-pyridyl)-3,7-diazabicyclo[3.3.0]octane | C(C)OC=1C=C(C=NC1)N1CC2CNCC2C1 | C13H19N3O
